US06936612B2
6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one
Prepared from 6-bromo-8-cyclopentyl-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one following the procedure described for 8-cyclopentyl-6-iodo-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one. MS (APCI) Calc'd for C14H16BrN3O2S: 371.01, 369.01. Found: 372.9 (M+1), 371.9. 1H NMR δ (400 MHz, CDCl3) 9.01 (s, 1H), 6.06-5.97 (m, 1H), 2.93 (s, 3H), 2.67 (s, 3H), 2.21-2.11 (m, 2H), 2.10-2.04 (m, 2H), 1.94-1.87 (m, 2H), 1.67-1.62 (m, 2H).

reactant | 6-bromo-8-cyclopentyl-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=C(C2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1)C | C14H16BrN3OS
reactant | 8-cyclopentyl-6-iodo-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)S(=O)C)C)I)=O | C14H16IN3O2S
product | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
